US08541589B2
A mixture of 1,4-dibromonaphthalene (24.06 g, 84 mmol) and copper cyanide (6.02 g, 67 mmol) in DMF (85 mL) was heated to 125° C. overnight. The mixture was partially concentrated to remove DMF and the resulting residue washed with aqueous ammonium hydroxide and extracted with ethyl acetate. The organic layer was concentrated and purified by chromatography to yield 4-bromo-1-naphthonitrile (5.13 g, 26%).

reactant | 1,4-dibromonaphthalene | 84 mmol, 24.06 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | copper cyanide | 67 mmol, 6.02 g | [Cu](C#N)C#N
solvent | DMF | 85 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1-naphthonitrile | 5.13 g, 26% | BrC1=CC=C(C2=CC=CC=C12)C#N | C11H6BrN
